data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_513598_1,[C:1]([N:3]([N:2]([N:4]([H:10])[H:11])[N:5]([H:12])[H:13])[H:9])(/[N:8]=[C:7](\[N:6]([H:14])[H:15])[H:18])([H:16])[H:17]>>[C:1]1([H:16])([H:17])[N:3]([H:9])[N:8]1[C@@:7]([N:2]([N:4]([H:10])[H:11])[N:5]([H:12])[H:13])([N:6]([H:14])[H:15])[H:18],67.74176249996685
MR_413070_0,[C:1]([C:3]([C:6](=[C:2]([N:4]([H:8])[H:9])[N:5]([H:10])[H:11])[H:12])=[C:7]([H:16])[H:17])([H:13])([H:14])[H:15]>>[C:1]([C:3]1=[C:6]([H:12])[C:2]([N:4]([H:8])[H:9])([N:5]([H:10])[H:11])[C:7]1([H:16])[H:17])([H:13])([H:14])[H:15],44.53430249999116
MR_149758_0,[C:1]([N:3]([H:9])[H:10])([O:5][C:2](=[C:4]([H:11])[H:12])[O:6][H:8])=[O:7]>>[C:1]([N:3]([H:9])[H:10])(=[O:5])[O:7][C:2](=[C:4]([H:11])[H:12])[O:6][H:8],47.60528749997789
MR_608287_1,[C:1]([N:3]([C:4]([C:2]([H:13])([H:14])[H:15])=[O:8])[H:12])([O:5][H:9])([O:6][H:10])[O:7][H:11]>>[C:1]([N:3]([C:4]([C:2]([H:13])([H:14])[H:15])([O:7][H:11])[O:8][H:9])[H:12])(=[O:5])[O:6][H:10],44.20800249999459
MR_618857_0,[C:1]([C:3]([H:12])([H:13])[H:14])([C:4]([H:15])([H:16])[H:17])([C:5]([H:18])([H:19])[H:20])[C:7]1([H:11])[C:2]2([H:9])[C:6]1([H:10])[O:8]2>>[C:1]([C:2]1([H:9])[C:7]([H:11])=[C:6]([H:10])[O:8]1)([C:3]([H:12])([H:13])[H:14])([C:4]([H:15])([H:16])[H:17])[C:5]([H:18])([H:19])[H:20],43.680275000007214
MR_197651_2,[C:1]([C:3]([C:5]([H:21])([H:22])[H:23])([H:16])[H:17])([N:7]([H:14])[H:15])([O:8][C:2]([C:4]([H:18])([H:19])[H:20])([C:6]([O:9][H:11])=[O:10])[H:13])[H:12]>>[C:1](=[N:7]/[H:14])(\[O:8][C:2]([C:4]([H:18])([H:19])[H:20])([C:6]([C:3]([C:5]([H:21])([H:22])[H:23])([H:16])[H:17])([O:9][H:11])[O:10][H:15])[H:13])[H:12],71.59963250000004
MR_553123_2,[C:1](/[C:3](=[C:4](/[C:2]([H:15])([H:16])[H:17])[O:8][H:11])[N:5]([H:13])[H:14])([O:6][H:9])([O:7][H:10])[H:12]>>[C:1](=[C:3](\[C:4]([C:2]([H:15])([H:16])[H:17])([O:7][H:10])[O:8][H:11])[N:5]([H:13])[H:14])(\[O:6][H:9])[H:12],51.39475999996975
MR_229895_0,[C:1]([N:4]([N:3]([C:5]([C:2]([H:13])([H:14])[H:15])([O:7][H:8])[H:12])[H:9])[H:10])(=[O:6])[H:11]>>[C:1]([N:4]([N:3]([C:5]([C:2]([H:13])([H:14])[H:15])=[O:7])[H:9])[H:10])([O:6][H:8])([H:11])[H:12],57.92138749997079
MR_251873_0,[C:1]1([C:4]([H:18])([H:19])[H:20])([H:10])[C:6]([N:5]([C:2]([H:12])([H:13])[H:17])[C:3]([H:14])([H:15])[H:16])([O:7][H:9])[N:8]1[H:11]>>[C:1]([C:4]([H:18])([H:19])[H:20])(/[C:6]([N:5]([C:2]([H:12])([H:13])[H:17])[C:3]([H:14])([H:15])[H:16])=[N:8]\[H:11])([O:7][H:9])[H:10],72.11543749998185
MR_70795_0,[C:1]([C:2](=[O:5])[H:7])(=[C:3]([H:8])[H:9])[O:4][H:6]>>[C:1]1([O:4][H:6])=[C:2]([H:7])[O:5][C:3]1([H:8])[H:9],67.29686500002003
MR_234409_1,[C:1]1([C:3]([H:13])([H:14])[H:15])([O:7][N:4]([H:9])[H:10])[C:2]([N:5]([H:11])[H:12])([H:8])[O:6]1>>[C:1]([C:2]([N:5]([H:11])[H:12])([O:7][N:4]([H:9])[H:10])[H:8])([C:3]([H:13])([H:14])[H:15])=[O:6],16.018192500006876
MR_580171_0,[C:1]([C:2]([C:4]([N:5]([H:11])[H:12])=[O:8])([H:13])[H:14])([C:3]([H:16])([H:17])[H:18])([C:6](=[O:9])[H:15])[O:7][H:10]>>[C:1]([C:2]([C:4]([N:5]([H:11])[H:12])([C:6](=[O:9])[H:15])[O:8][H:10])([H:13])[H:14])([C:3]([H:16])([H:17])[H:18])=[O:7],62.019590000003575
MR_269608_1,[C:1]([C:4]([C:2]([H:17])([H:18])[H:19])=[C:7](/[C:3]([N:6]([H:11])[H:12])=[N:8]/[N:5]([H:9])[H:10])[H:13])([H:14])([H:15])[H:16]>>[C:1]([C:4]1([C:2]([H:17])([H:18])[H:19])[C:7]([H:13])=[C:3]([N:6]([H:11])[H:12])[N:8]1[N:5]([H:9])[H:10])([H:14])([H:15])[H:16],41.375467500012206
MR_595458_0,[N:1](/[C:2]([N:3]([H:10])[H:11])=[N:6]/[O:5][H:8])([O:4][H:7])[H:9]>>[N:1](=[C:2](\[N:3]([H:10])[H:11])[N:6]([O:5][H:8])[H:9])\[O:4][H:7],43.463159999949
MR_102186_0,[C@@:1]([C:3](=[O:7])[H:10])(/[C:4](=[C:5](\[C:2]([H:13])([H:14])[H:15])[H:12])[H:11])([O:6][H:8])[H:9]>>[C:1](=[C:4](\[C@:5]([C:2]([H:13])([H:14])[H:15])([C:3](=[O:7])[H:10])[H:12])[H:11])(\[O:6][H:8])[H:9],54.72929500000447
MR_221322_0,[C:1](/[N:2]=[C:5](\[C:3]([N:4]([H:10])[H:11])([C:6](=[C:7]([H:17])[H:18])[H:13])[O:8][H:9])[H:12])([H:14])([H:15])[H:16]>>[C:1]([N:2](/[C:5](=[C:3](\[N:4]([H:10])[H:11])[O:8][H:9])[H:12])[C:6](=[C:7]([H:17])[H:18])[H:13])([H:14])([H:15])[H:16],71.75713500003042
MR_690920_2,[C:1]1([C:3]([H:13])([H:14])[H:15])(/[C:4]([C:5](=[C:6]([H:16])[H:17])[H:12])=[N:8]/[H:9])[C:2]([H:10])([H:11])[O:7]1>>[C:1]([C:2](=[O:7])[H:11])([C:3]([H:13])([H:14])[H:15])(/[C:4]([C:5](=[C:6]([H:16])[H:17])[H:12])=[N:8]/[H:9])[H:10],51.85848249997605
MR_304983_1,[C:1]1([O:7][H:8])([H:9])[O:5][C:3](=[C:4]([H:12])[H:13])[C:2]([H:10])([H:11])[O:6]1>>[C:1]([O:5][C:3]([C:2]([O:6][H:8])([H:10])[H:11])=[C:4]([H:12])[H:13])(=[O:7])[H:9],40.36456500003197
MR_72587_1,[C:1]([C:2]([H:17])([H:18])[H:19])([N:3](/[C:4]([N:7]([H:13])[H:14])=[N:8]/[N:6]([H:11])[H:12])[N:5]([H:9])[H:10])([H:15])[H:16]>>[C:1]([C:2]([H:17])([H:18])[H:19])([N:8](/[C:4](=[N:3]\[N:5]([H:9])[H:10])[N:7]([H:13])[H:14])[N:6]([H:11])[H:12])([H:15])[H:16],65.86240000000345
MR_264551_0,[C:1]1([H:8])([H:9])[N:4]([C:2]([H:10])([H:11])[H:12])[C:5]([C:3]([H:13])([H:14])[H:15])=[N:7][O:6]1>>[C:1]1([H:8])([H:9])[O:6][N:7]1/[C:5]([C:3]([H:13])([H:14])[H:15])=[N:4]/[C:2]([H:10])([H:11])[H:12],69.33498499997498
